US06743820B2
A mixture of phenol (9.4 g), NaOH (1.33 g) and water (6.6 ml) was heated on a boiling water bath until the mixture became homogeneous. (2R, 3R)-3-Phenylglycidol (5.0 g) was added in small portions over a period of 10 minutes and the mixture was heated with stirring on a boiling water bath for 1 hr. The mixture was poured into a solution of NaOH (3.99 g) in ice water (75 ml) and extracted with ether (50 ml) 2 times. The ether solution was dried over anhydrous sodium sulfate and the solvent distilled off to obtain a white solid. Recrystallization from methylene chloride gave white crystals (3.1 g) of (2R, 3S)-3-phenoxy-3-phenylpropane-1,2-diol.

reactant | phenol | 9.4 g | C1(=CC=CC=C1)O | C6H6O
reactant | NaOH | 1.33 g | [OH-].[Na+]
reactant | (2R, 3R)-3-Phenylglycidol | 5.0 g | C1=CC=C(C=C1)[C@@H]2[C@H](O2)CO | C9H10O2
reactant | NaOH | 3.99 g | [OH-].[Na+]
solvent | water | 6.6 ml | O | H2O
product | (2R, 3S)-3-phenoxy-3-phenylpropane-1,2-diol | 3.1 g | O(C1=CC=CC=C1)[C@H]([C@@H](CO)O)C1=CC=CC=C1 | C15H16O3
